US06809094B2
Di-tert-butyl dicarbonate (600 mg, 2.75 mmol) was added to a solution of 2-chloroimidazole (381 mg, 2.50 mmol), and sodium hydroxide (120 mg, 3.0 mmol) in tetrahydrofuran (2.5 mL) and water (2.5 mL). After 3 h at RT an additional portion of di-tert-butyl dicarbonate (100 mg, 0.46 mmol) was added and the mixture was stirred at RT for 16 h. The mixture was extracted with ethyl acetate (3×) and the combined organic layers were dried (Na2SO4), filtered and concentrated to afford 627 mg (99%) of 2-chloro-benzoimidazole-1-carboxylic acid tert-butyl ester which was used without further purification: MS (Cl) m/z 253.1 (M+1).

reactant | Di-tert-butyl dicarbonate | 2.75 mmol, 600 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-chloroimidazole | 2.50 mmol, 381 mg | ClC=1NC=CN1 | C3H3ClN2
reactant | sodium hydroxide | 3.0 mmol, 120 mg | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.46 mmol, 100 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | 2-chloro-benzoimidazole-1-carboxylic acid tert-butyl ester | 627 mg, 99% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)Cl | C12H13ClN2O2
